US04146631
2,3-Dihydroxybenzoic acid (6.16 g) and propyl iodide (6.8 g) were added to a mixture of aqueous potassium hydroxide solution (20 ml, 25% w/v), water (50 ml) and ethanol (50 ml) and the mixture was stirred and heated at reflux for 5 hours. A further quantity of propyl iodide (17 g) was then added and the mixture was again heated at reflux for 4 hours, small quantities of solid potassium hydroxide being added meanwhile in order to keep the pH at about 10. Decolourizing charcoal was then carefully added, the mixture was filtered hot and the filtrate was acidified to pH 1 by treatment with concentrated hydrochloric acid. The resulting solid was filtered off and dissolved in aqueous ammonia solution (2N), and the solution was treated with decolourizing charcoal, filtered, and the filtrate was acidified to pH 1 by treatment with hydrochloric acid to give 3-propoxysalicylic acid (5.1 g), m.p. 114°-118° C.

reactant | 2,3-Dihydroxybenzoic acid | 6.16 g | OC1=C(C(=O)O)C=CC=C1O | C7H6O4
reactant | propyl iodide | 6.8 g | C(CC)I | C3H7I
reactant | potassium hydroxide | 20 ml | [OH-].[K+]
reactant | propyl iodide | 17 g | C(CC)I | C3H7I
reactant | charcoal | C | CH4
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 3-propoxysalicylic acid | 5.1 g | C(CC)OC1=C(C(C(=O)O)=CC=C1)O | C10H12O4
